US08685969B2
7-(2-Hydroxyethoxy)-1-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-5H-pyridazino[4,5-b]indole-4-carboxamide
To a homogeneous, light orange solution of 7-(2-methoxyethoxy)-1-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-5H-pyridazino[4,5-b]indole-4-carboxamide (0.0973 g, 0.155 mmol) in dichloromethane (5 ml) under nitrogen at 0° C. was added 1M tribromoborane/dichoromethane (0.496 ml, 0.496 mmol) over 5 min. After 5 min, the cold bath was removed, and the heterogeneous solution was stirred to room temperature. One hour later, the reaction was immersed in an ice-water bath and ice water (15 mL) was added. The resulting mixture was basified with 1 N aqueous NaOH solution to pH ˜10 by litmus paper. EtOAc (50 mL) was added, and the layers were separated. The aqueous layer was extracted with EtOAc (2×50 mL). The combined extract was dried over MgSO4 and concentrated in vacuo to give a residue which was diluted with MeOH (1 mL) and purified by reverse phase HPLC. The appropriate fractions were collected, basified with NaHCO3 (solid), and concentrated in vacuo. The residue was extracted with CH2Cl2 (3×). The combined extract was dried over Na2SO4 and concentrated in vacuo to give the desired product (0.0148 g, 0.029 mmol, 18.8% yield) as a light yellow solid. LC/MS (M+H)=507.21; 1H NMR (500 MHz, DMSO-d6) (recognizable peaks for the major atropoisomer) δ ppm 12.23 (s, 1H), 8.71 (br. S, 1H), 8.48 (s, 1H), 8.26 (t, J=6.2 Hz, 1H), 8.00 (br. S, 1H), 7.88-7.94 (m, 1H), 7.79 (d, J=8.0 Hz, 1H)), 7.72-7.77 (m, 1H), 7.58-7.70 (m, 3H), 7.41 (d, J=2.2 Hz, 1H), 7.29 (d, J=8.6 Hz, 1H), 6.88 (dd, J1=8.9, J2=2.2 Hz, 1H), 4.84-4.97 (m, 1H), 4.01-4.14 (m, 2H), 3.71-3.85 (m, 2H), 1.81 (s, 3H).

reactant | 7-(2-methoxyethoxy)-1-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-5H-pyridazino[4,5-b]indole-4-carboxamide | 0.155 mmol, 0.0973 g | COCCOC=1C=CC=2C3=C(NC2C1)C(=NN=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C(=O)N | C29H24N6O4
reactant | tribromoborane dichoromethane | 0.496 mmol, 1M, 0.496 ml | BrB(Br)Br.ClCCl
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | MeOH | 1 mL | CO | CH4O
product | 7-(2-Hydroxyethoxy)-1-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-5H-pyridazino[4,5-b]indole-4-carboxamide | 0.029 mmol, 0.0148 g, 18.8% yield | OCCOC=1C=CC=2C3=C(NC2C1)C(=NN=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C(=O)N | C28H22N6O4
